US07160875B2
To a solution of 0.5 g (2.4 mmol) of 5H,7H-dibenzo[b,d]azepin-6-one in 6 ml of dimethylformamide at room temperature 0.143 g (3.58 mmol) of sodium hydride was added. After stirring for 1 hour at 60° C. 0.97 g (7.2 mmol) of cyclopropylmethyl bromide were added and stirring was continued at 60° C. overnight. After cooling to room temperature the mixture was was distributed between water and dichloromethane. The combined organic layers were reextracted with sodium sulphate solution and dried (MgSO4). After concentration in vacuo the residue was purified by column chromatography (hexane/ethyl acetate=1:1) to yield 0.6 g (95%) of 5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one as a white crystalline compound.

reactant | 5H,7H-dibenzo[b,d]azepin-6-one | 2.4 mmol, 0.5 g | C1=CC=CC=2NC(CC3=C(C21)C=CC=C3)=O | C14H11NO
reactant | sodium hydride | 3.58 mmol, 0.143 g | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 7.2 mmol, 0.97 g | C1(CC1)CBr | C4H7Br
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one | 0.6 g, 95% | C1(CC1)CN1C2=C(C3=C(CC1=O)C=CC=C3)C=CC=C2 | C18H17NO
